US07939533B2
b) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-methanesulfonyl-ethylamino)-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 50 mg (0.087 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-methylsulfanyl-ethylamino)-pyridin-3-yl]-N-methyl-isobutyramide and 130 mg (0.212 mmol) potassium monopersulfate triple salt in 1 ml methanol was stirred at room temperature for 3 days. The reaction was quenched with 1 ml sodium hydrogen sulfite solution 38%. The mixture was treated with 3 ml saturated sodium carbonate solution and extracted with three 5-ml portions of ethyl acetate. The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to give 29 mg (55%) of the title compound as a white foam.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-methylsulfanyl-ethylamino)-pyridin-3-yl]-N-methyl-isobutyramide | 0.087 mmol, 50 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)NCCSC)(C)C)(F)F | C27H26ClF6N3OS
reactant | potassium monopersulfate triple salt | 0.212 mmol, 130 mg | OS(=O)(=O)[O-].OS(=O)(=O)O[O-].OS(=O)(=O)O[O-].[O-]S(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+]
reactant | methanol | 1 ml | CO | CH4O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(2-chloro-phenyl)-6-(2-methanesulfonyl-ethylamino)-pyridin-3-yl]-N-methyl-isobutyramide | 29 mg, 55% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)NCCS(=O)(=O)C)(C)C)(F)F | C27H26ClF6N3O3S
